US05210276
a) 2-tertbutoxycarbonylamino-7-trifluoromethanesulfonyloxy-tetraline
A mixture of 2-tertbutoxycarbonylamino-7-hydroxytetraline (24 g, 0.09 mol) and pyridine (50 ml) is cooled to 0° C. under nitrogen atmosphere and trifluoromethanesulfonic anhydride (16.4 ml, 0.10 mol) is added thereto. After 10 minutes at 0° C., the reaction temperature is allowed to rise to room temperature. After 2.5 hours the reaction mixture is poured into water and extracted with ethyl ether.

reactant | 2-tertbutoxycarbonylamino-7-hydroxytetraline | 0.09 mol, 24 g | C(C)(C)(C)OC(=O)NC1CC2=CC(=CC=C2CC1)O | C15H21NO3
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.10 mol, 16.4 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | O | H2O
product | 2-tertbutoxycarbonylamino-7-trifluoromethanesulfonyloxy-tetraline | C(C)(C)(C)OC(=O)NC1CC2=CC(=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C16H20F3NO5S
